US08283354B2
To a solution of 2-amino-5-bromo-benzamide (29.2 g, 136 mmol) and triethylamine (25.0 mL, 173 mmol) in THF (500 mL) was added dropwise o-anisoyl chloride (24.0 g, 140 mmol). Stirring at room temperature was continued for 3 h, after which the formed precipitate was filtered and washed once with THF and twice with dichloromethane yielding 2-(o-anisoyl)-amino-5-bromo-benzamide (51.4 g, 84%) with 1 equivalent of triethylamine hydrochloride.

reactant | 2-amino-5-bromo-benzamide | 136 mmol, 29.2 g | NC1=C(C(=O)N)C=C(C=C1)Br | C7H7BrN2O
reactant | triethylamine | 173 mmol, 25.0 mL | C(C)N(CC)CC | C6H15N
reactant | o-anisoyl chloride | 140 mmol, 24.0 g | C(C=1C(=CC=CC1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine hydrochloride | 1 equivalent | Cl.C(C)N(CC)CC
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | 2-(o-anisoyl)-amino-5-bromo-benzamide | 51.4 g, 84% | C(C=1C(=CC=CC1)OC)(=O)C1=C(C(=O)N)C=C(C=C1N)Br | C15H13BrN2O3
